US07666871B2
5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-2-(4′-trifluoromethoxy -biphenyl-4-yl)-oxazole
The title compound is prepared in a manner substantially analogous to example 133 starting from 4-triflouromethoxy phenyl boronic acid (295 mg, 1.43 mmol) and 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 mmol) to give 63 mg (51%). MS (m/e) 431.2 (M+1)

reactant | 4-triflouromethoxy phenyl boronic acid | 1.43 mmol, 295 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 0.287 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
product | 5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-2-(4′-trifluoromethoxy -biphenyl-4-yl)-oxazole | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)CCN1[C@@H](CCC1)C | C24H25F3N2O2
